US07399759B2
tert-Butyl 3-[6-(7-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
2-Mercapto-4-methylbenzoic acid (1.56 g, 9.3 mmol) and tert-butyl 3-(6-cyano-2-pyridyl)propanoate (1.46 g, 6.3 mmol) were dissolved in pyridine (15 ml), and the mixture was refluxed for 6 hrs. The reaction mixture was concentrated under reduced pressure, subjected to silica gel column chromatography, eluted with hexane-ethyl acetate (3:2, v/v) and recrystallized from ethyl acetate-hexane to give the titled compound (1.29 g, 53%).

reactant | 2-Mercapto-4-methylbenzoic acid | 9.3 mmol, 1.56 g | SC1=C(C(=O)O)C=CC(=C1)C | C8H8O2S
reactant | tert-butyl 3-(6-cyano-2-pyridyl)propanoate | 6.3 mmol, 1.46 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(7-methyl-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 1.29 g, 53% | CC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O)C=C1 | C21H22N2O3S
